US08877782B2
6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(1-methyl-1H-pyrazol-4-yl)-nicotinamide
As described for example 254, 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (100 mg, 0.29 mmol) was converted, using 1-methyl-1H-pyrazol-4-ylamine instead of 2-amino-2-methyl-1-propanol, to the title compound (90 mg, 73%) which was obtained as a white solid. MS: m/e=424.2 [M+H]+.

reactant | 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.29 mmol, 100 mg | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13ClN2O4
reactant | 1-methyl-1H-pyrazol-4-ylamine | CN1N=CC(=C1)N | C4H7N3
product | 6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(1-methyl-1H-pyrazol-4-yl)-nicotinamide | 90 mg, 73% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC=2C=NN(C2)C)C=C1)C | C21H18ClN5O3
